US07405236B2
d] (6-{[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynylcarbamoyl]-methyl}-indol-1-yl)-acetic acid
In analogy to the procedure described for example 1 e], (6-{[3-(4-trifluoromethoxy-phenyl)-prop-2-ynylcarbamoyl]-methyl}-indol-1-yl)-acetic acid ethyl ester was treated with LiOH to obtain the title compound as off-white solid.

reactant | (6-{[3-(4-trifluoromethoxy-phenyl)-prop-2-ynylcarbamoyl]-methyl}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)CC(NCC#CC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C24H21F3N2O4
reactant | LiOH | [Li+].[OH-]
product | (6-{[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynylcarbamoyl]-methyl}-indol-1-yl)-acetic acid | FC(OC1=CC=C(C=C1)C#CCNC(=O)CC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C22H17F3N2O4
